US05076973
Synthesis of dolastatin 3 is accomplished by one L-amino acid unit additions from L-Pro-OMe employing diethyl phosphorocyanidate (DEPC)-triethylamine for peptide bond formation and N-Boc-protection (trifluoroacetic acid cleavage). The thiazole amino acid components used herein were prepared as described by Schmidt et al (Synthesis, 1987, 233-236; Schmidt et al, Synthesis, 1986, 992-998; Kelly et al, J. Org. Chem., 1986, 51, 4590-4594; Houssin et al, J. Org. Chem., 1985, 50, 2787-2788; and Holzapfel et al, J. Org. Chem., 1985, 50, 2323-2327). By these means, Boc-L-Leu--L-(gln)Thz-(gly)Thz-L-Val-L-Pro-OMe, mp 125°-126° from ethyl acetate-hexane, [α]D25.8 -74.9 (c=3.73, CHCl3) was obtained in 71% overall yield. After successive hydrolysis [1N NaOH, dioxane 3N HCl→mp 168°-170° from ethanol-diethyl ether, [α]D22 -37.7 (c=1.64, CH3OH), conversion (DCCI, DME, pentafluorophenol) to the OPfp active ester, Boc cleavage, and cyclization in dioxane containing 4% t-butanol and 4 -pyrrolidinopyridine (at 95° C., 76% yield), synthetic (-)-dolastatin 3, a colorless amorphous solid from ethanol-ethyl acetate, mp 170°-173°, [α]D25 -53.3 (c=0.94 in CHCl3), 1H- and 13C-NMR was realized in 41% overall yield.

reactant | dolastatin 3 | CC(C)C[C@H]1C(=O)N[C@H](C2=NC(=CS2)C(=O)NCC3=NC(=CS3)C(=O)N[C@H](C(=O)N4CCC[C@H]4C(=O)N1)C(C)C)CCC(=O)N | C29H40N8O6S2
reactant | L-Pro-OMe | N1[C@H](C(=O)OC)CCC1 | C6H11NO2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1N | [OH-].[Na+]
reactant | DCCI | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | pentafluorophenol | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 3N | O1CCOCC1 | C4H8O2
solvent | DME | COCCOC | C4H10O2
solvent | CH3OH | CO | CH4O
solvent | ethanol diethyl ether | C(C)O.C(C)OCC
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4 -pyrrolidinopyridine | 76% yield | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
